US08809525B2
6-(3,4-Dichlorophenyl)-5-phenyl-1,2,4-triazin-3-amine (52 mg, 54%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and 3,4-dichlorophenylboronic acid (65.5 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,4-dichlorophenylboronic acid | 0.344 mmol, 65.5 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 6-(3,4-Dichlorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 52 mg, 54% | ClC=1C=C(C=CC1Cl)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H10Cl2N4
